US04044049
A suspension of 10 grams of 2-fluoro-5-nitroanisole and 100 ml. of dioxane is reduced catalytically under 40 p.s.i. of hydrogen and 1.0 gram of 5% Pd/C. After the uptake of hydrogen ceases, the catalyst is filtered, and the filtrate is concentrated in vacuo to yield 4-fluoro-3-methoxyaniline.

reactant | 2-fluoro-5-nitroanisole | 10 grams | FC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.0 gram | [Pd] | Pd
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-fluoro-3-methoxyaniline | FC1=C(C=C(N)C=C1)OC | C7H8FNO
